US04226775
As for Example 8, 3-(4-acetamidobenzoyl)crotonic acid is coupled to L-proline to give 1-[3-(4-acetamidobenzoyl)crotonyl]-L-proline. Reaction of the preceding compound with thiolacetic acid in carbontetrachloride as for Example 8 gives the product of the example as a glass.

reactant | 3-(4-acetamidobenzoyl)crotonic acid | C(C)(=O)NC1=CC=C(C(=O)\C(=C/C(=O)O)\C)C=C1 | C13H13NO4
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | 1-[3-(4-acetamidobenzoyl)crotonyl]-L-proline | C(C)(=O)NC1=CC=C(C(=O)\C(=C/C(=O)N2[C@H](C(=O)O)CCC2)\C)C=C1 | C18H20N2O5
